US07176242B2
N1-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-5-(1H-imidazol-2-yl)-N3,N3-dipropylisophthalamide
To a stirred solution of 3-[(dipropylamino)carbonyl]-5-(1H-imidazol-2-yl)benzoic acid (250 mg, 0.79 mmol), diisopropylethylamine (103 mg, 0.8 mmol), and HBTU (330 mg, 0.87 mmol) in methylene chloride (5 mL) is added a mixture of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol prepared by the method of EXAMPLE SP-272 (322 mg, 0.79 mmol) and diisopropylethylamine (206 mg, 1.6 mmol) in methylene chloride (5 mL). The reaction mixture is stirred at room temperature for 4 h and concentrated under reduced pressure. The residue is diluted with ethyl acetate (20 mL), washed with saturated sodium bicarbonate, and brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica gel, 5:95 methanol/methylene chloride) provides the title compound in pure form. APCI MS m/z 632.3 [M+H]+.

reactant | 3-[(dipropylamino)carbonyl]-5-(1H-imidazol-2-yl)benzoic acid | 0.79 mmol, 250 mg | C(CC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)C=1NC=CN1)CCC | C17H21N3O3
reactant | diisopropylethylamine | 0.8 mmol, 103 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 0.87 mmol, 330 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
reactant | diisopropylethylamine | 1.6 mmol, 206 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N1-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-5-(1H-imidazol-2-yl)-N3,N3-dipropylisophthalamide | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C2=CC(C(=O)N(CCC)CCC)=CC(=C2)C=2NC=CN2)=O)C=C(C1)F | C36H43F2N5O3
